US06713474B2
Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (30 mg, 0.065 mmol) was mixed with (5-methyl-3-isoxazolyl)methanol (0.05 mL) in pyridine (0.5 mL). The reaction mixture was heated at 100° C. overnight. The solvent was removed and the residue was purified by preparative reverse phase LC/MS to give (5-methyl-3-isoxazolyl)methyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (18 mg, 0.038 mmol). 1H NMR (CDCl-d) δ 2.06(m, 4H), 2.44 (s, 3H), 3.64 (m, 2H), 3.91 (s, 3H), 4.13 (m, 2H), 4.96 (m, 1H), 5.26 (s, 2H), 6.12(s, 1H), 6.95 (s, 1H), 7.06 (m, 2H), 7.39 (s, 1H), 8.17 (bs, 1H), 8.21(s, 1H). LC/MS: MH+479.

reactant | Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.065 mmol, 30 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC2=CC=CC=C2)=O)OC)C2CCOCC2 | C25H25N5O4
reactant | (5-methyl-3-isoxazolyl)methanol | 0.05 mL | CC1=CC(=NO1)CO | C5H7NO2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | (5-methyl-3-isoxazolyl)methyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.038 mmol, 18 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OCC2=NOC(=C2)C)=O)OC)C2CCOCC2 | C24H26N6O5
